US06051570
2-[[(4-Methoxy)pyridin-2-yl]methylthio]-6-fluoro-5-(imidazol-1-yl)-1H-benzimidazole:
The title compound (1.9 g, 60%) was prepared by the general procedure using, 6-fluoro-5-(imidazol-1-yl)-2-mercapto-1H-benzimidazole (2.1 g, 9.0 mmol), (obtained in preparation 1) 4-methoxy-2-chloromethylpyridine hydrochloride (1.74 g, 9.0 mmol), sodium hydroxide (0.72 g, 18.0 mmol) and ethanol (25 mL). mp 86-87° C.; IR (KBr) 3443, 1600 cm-1 ; 1H NMR (CDCl3) δ 3.90 (s, 3H, OCH3), 4.38 (s, 2H, SCH2), 6.92 (d, J=5.7 Hz, 1H), 6.96 (s, 1H), 7.30 (m, 2H), 7.42 (d, J=10.2 Hz, 1H), 7.58 (d, J=7.8 Hz, 1H), 7.80 (s, 1H), 8.50 (d, J=6.0 Hz, 1H), 14.00 (brs, 1H, NH); Mass (m/z) 355 (M+.).

reactant | 6-fluoro-5-(imidazol-1-yl)-2-mercapto-1H-benzimidazole | 9.0 mmol, 2.1 g | FC=1C(=CC2=C(NC(=N2)S)C1)N1C=NC=C1 | C10H7FN4S
reactant | 4-methoxy-2-chloromethylpyridine hydrochloride | 9.0 mmol, 1.74 g | Cl.COC1=CC(=NC=C1)CCl
reactant | sodium hydroxide | 18.0 mmol, 0.72 g | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-[[(4-Methoxy)pyridin-2-yl]methylthio]-6-fluoro-5-(imidazol-1-yl)-1H-benzimidazole | 1.9 g, 60% | COC1=CC(=NC=C1)CSC1=NC2=C(N1)C=C(C(=C2)N2C=NC=C2)F | C17H14FN5OS
